US07678820B2
To a solution of 3-chloro-4-fluorobenzonitrile (300 mg) and 1,1,1-trifluoro-2-propanol (263 mg) in THF (15 ml) was added 60% NaH (92.5 mg) at 5° C., followed by stirring at room temperature for 2 hours, addition of a saturated NH4Cl solution to complete the reaction, and extraction with EtOAc. The obtained organic layer was dried over anhydrous MgSO4, and concentrated. The residue was purified by silica gel chromatography (n-hexane:EtOAc=97:3 to 85:15) to obtain 3-chloro-4-(2,2,2-trifluoro-1-methylethoxy)benzonitrile (435 mg) as a colorless oily substance.

reactant | 3-chloro-4-fluorobenzonitrile | 300 mg | ClC=1C=C(C#N)C=CC1F | C7H3ClFN
reactant | 1,1,1-trifluoro-2-propanol | 263 mg | FC(C(C)O)(F)F | C3H5F3O
reactant | NaH | 92.5 mg | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-chloro-4-(2,2,2-trifluoro-1-methylethoxy)benzonitrile | 435 mg | ClC=1C=C(C#N)C=CC1OC(C(F)(F)F)C | C10H7ClF3NO
